US05589478
To a solution of 4-tert-butyl-N-{6-[2-(5-hydroxypyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (200 mg) in dimethylformamide (4 ml) is added potassium carbonate (154 mg), 5-bromo-2-chloropyrimidine (216 mg), and the mixture is stirred at 50° C. for two hours. The reaction mixture is acidified with cold hydrochloric acid, and extracted with ethyl acetate. The organic layer is washed with water and brine, and dried over anhydrous sodium sulfate, and evaporated to remove the solvent. The oily residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=50:1), and the fractions are evaporated to remove the solvent. The resulting crude crystals are recrystallized from methylene chloride/isopropyl ether to give 4-tert-butyl-N-{6-[2-(5-(5-bromopyrimidin-2-yloxy)pyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (238 mg) as colorless needles.

reactant | 4-tert-butyl-N-{6-[2-(5-hydroxypyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 200 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)O | C27H29N5O5S
reactant | potassium carbonate | 154 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-2-chloropyrimidine | 216 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 4-tert-butyl-N-{6-[2-(5-(5-bromopyrimidin-2-yloxy)pyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 238 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)OC1=NC=C(C=N1)Br | C31H30BrN7O5S
